US09238639B2
E) Methyl(4-(dimethylcarbamoyl)-6-hydroxy-1-benzothiophen-3-yl)acetate
To a mixture of 4-(dimethylcarbamoyl)-3-(2-methoxy-2-oxoethyl)-1-benzothiophen-6-yl pivalate (128 mg) and MeOH (3 mL) was added K2CO3 (46.9 mg) at room temperature. The mixture was stirred at room temperature for 12 h. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (75 mg).

reactant | 4-(dimethylcarbamoyl)-3-(2-methoxy-2-oxoethyl)-1-benzothiophen-6-yl pivalate | 128 mg | C(C(C)(C)C)(=O)OC1=CC2=C(C(=CS2)CC(=O)OC)C(=C1)C(N(C)C)=O | C19H23NO5S
reactant | MeOH | 3 mL | CO | CH4O
reactant | K2CO3 | 46.9 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | water | O | H2O
product | Methyl(4-(dimethylcarbamoyl)-6-hydroxy-1-benzothiophen-3-yl)acetate | 75 mg | COC(CC1=CSC2=C1C(=CC(=C2)O)C(N(C)C)=O)=O | C14H15NO4S
